US04294843
A mixture of 3-(2-aminophenylthiomethyl)1,2,4-oxadiazole (4.14 g), 4-chlorobenzoyl chloride (3.68 g), sodium hydroxide (0.8 g) and water (15 ml) was stirred at 25° for 4 hours. Crude product was recovered by filtration and crystallised from ethanol to give 3-[2-(4-chlorobenzamido)phenylthiomethyl]-1,2,4-oxadiazole, m.p. 103°.

reactant | 3-(2-aminophenylthiomethyl)1,2,4-oxadiazole | 4.14 g | NC1=C(C=CC=C1)SCC1=NOC=N1 | C9H9N3OS
reactant | 4-chlorobenzoyl chloride | 3.68 g | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | sodium hydroxide | 0.8 g | [OH-].[Na+]
solvent | water | 15 ml | O | H2O
product | 3-[2-(4-chlorobenzamido)phenylthiomethyl]-1,2,4-oxadiazole | ClC1=CC=C(C(=O)NC2=C(C=CC=C2)SCC2=NOC=N2)C=C1 | C16H12ClN3O2S
